US07250433B2
To a solution of 1-(tert-butoxycarbonylaminomethyl)-spiro[2.4]heptane-1-carboxylic acid methyl ester (16.5 g, 58.2 mmol) in methanol (100 mL) was added LiOH—H2O (4.9 g, 116 mmol) and water (15 mL). After 3 hours, additional methanol (50 mL) and water (15 mL) was added and reflux was continued for 6 hours total. The solvent was removed under reduced pressure. The residue was dissolved in water (200 mL) and washed with ether (200 mL). The aqueous solution was cooled in an ice bath and methylene chloride (200 mL) was added. With stirring, 4N HCl was added dropwise until pH=2-3. The layers were separated and the aqueous layer was extracted with methylene chloride (2×300 mL). The combined organic layers were dried over sodium sulfate, filtered and evaporated. The residue was dissolved in hexane and evaporated to give 12.6 g (80%) of 1-(tert-butoxycarbonylaminomethyl)-spiro[2.4]heptane-1-carboxylic acid as a white foamy solid: 1H NMR (300 MHz, CDCl3) δ 1.08 (d, J=5.0 Hz, 1H), 1.44 (s, 9H), 1.45 (m, 2H), 1.55-1.8 (m, 6H), 1.92 (m, 1H), 3.35 (dd, J=6.0, 14.0 Hz, 1H), 3.44 (dd, J=6.0, 14.0 Hz, 1H), 5.28 (br t, 1H); MS (APCI) m/z=170 [M+H-100(Boc)]+.

reactant | 1-(tert-butoxycarbonylaminomethyl)-spiro[2.4]heptane-1-carboxylic acid methyl ester | 58.2 mmol, 16.5 g | COC(=O)C1(CC12CCCC2)CNC(=O)OC(C)(C)C | C15H25NO4
reactant | LiOH—H2O | 116 mmol, 4.9 g | O[Li].O
reactant | water | 15 mL | O | H2O
reactant | water | 15 mL | O | H2O
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | 1-(tert-butoxycarbonylaminomethyl)-spiro[2.4]heptane-1-carboxylic acid | 12.6 g, 80% | C(C)(C)(C)OC(=O)NCC1(CC12CCCC2)C(=O)O | C14H23NO4
